Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
L foot ulcer infection
 
Major Surgical or Invasive Procedure:
___ - Vascular angiogram with stent placement
___ - Ulcer debridement and bone excision in operating room

 
History of Present Illness:
 Patient is ___ M with PMH type I diabetes, CVA, PVD who 
presents as a direct admit for cellulitis.  
 He was seen at the ___ office today for follow-up care of 
a wound on his left TMA. Per clinic notes: "Vascular examination 
revealed nonpalpable pedal pulses bilaterally. Dermatological 
examination shows a small punctate ulceration laterally over the 
fifth metatarsal stump. There was noted to be some mild edema 
and erythema of the foot. The base of the ulceration had small 
amount of purulent drainage."  
 On arrival to the floor, patient reports that he is here fore 
his foot. He is somewhat of a poor historian and cannot answer 
most questions. He states that his L foot has been hurting for 
maybe ___ mo, he isn't sure. He denies fevers/chills, N/V, SOB, 
CP/dizziness, abd pain, constipation/diarrhea, numbness or 
weakness.  
 Per discussion with his brother, ___, patient has memory 
problems from CVA. He has had pain in his foot for a couple of 
weeks.
 
Past Medical History:
 PVD  
 Diabetes since age ___  
 HTN  
 CVA ___ years ago s/p car accident  
 Perioperative occipital lobe stroke ___  
 PAST SURGICAL HISTORY:  
 ___ Balloon angioplasty of left superficial femoral  
 artery.  
 ___ Redo left below-knee popliteal to posterior tibial 
artery bypass with right basilic arm vein  
 RLE fem ___ ___  
 Debridement right ___ toe ___  
 Left hallux amputation ___  
 LLE bypass x 2 (___)  
 RLE knee surgery ___ years ago  
 Gastric ulcer surgery 
 
Social History:
___
Family History:
Father deceased. + FHx diabetes. Unsure of other FHx.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================= 
 VS: 98.0 PO 180 / 69 89 18 95 Ra  
 GENERAL: NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, + dentures  
 NECK: supple neck  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: L foot with areas of erythema on shin (nontender), 
1+ edema b/l, L foot with TMA, wrapped in clean bandage  
 SKIN: Multiple scars on upper extremities.  

DISCHARGE PHYSICAL EXAM
========================
VS:  97.8PO 115 / 63 78 16 98 Ra
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, MMM, + dentures  
NECK: supple neck  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: L foot with areas of erythema on shin (nontender) 
outlined in skin marker, improved, L foot with transmetatarsal 
amputation, incision on lateral aspect of forefoot with sutures 
in place, no erythema and minimally tender.  
SKIN: Multiple scars on upper extremities.
 
Pertinent Results:
ADMISSION LAB RESULTS
=====================
___ 12:30AM BLOOD WBC-9.1 RBC-4.13* Hgb-11.7* Hct-35.2* 
MCV-85 MCH-28.3 MCHC-33.2 RDW-13.0 RDWSD-40.4 Plt ___
___ 12:30AM BLOOD Glucose-338* UreaN-22* Creat-0.9 Na-134 
K-3.7 Cl-96 HCO3-26 AnGap-16
___ 12:30AM BLOOD Calcium-9.3 Phos-2.5* Mg-1.9
___ 12:30AM BLOOD CRP-83.4*

DISCHARGE LAB RESULTS
=====================
___ 05:31AM BLOOD WBC-10.6* RBC-4.07* Hgb-11.6* Hct-34.7* 
MCV-85 MCH-28.5 MCHC-33.4 RDW-13.6 RDWSD-41.8 Plt ___
___ 05:31AM BLOOD Glucose-40* UreaN-24* Creat-1.1 Na-139 
K-3.7 Cl-100 HCO3-25 AnGap-18
___ 12:30AM BLOOD ALT-18 AST-20 AlkPhos-94 TotBili-0.2
___ 08:10AM BLOOD Calcium-9.5 Phos-3.1 Mg-2.0

IMAGING/STUDIES
===============
___ L Foot XRay: 
Status post trans phalangeal amputations of the first through 
fifth toes.  No definite erosion to suggest osteomyelitis.

___ Arterial Study: 
Evidence of moderate to severe ischemia bilateral lower 
extremities, worse on the left.

___ Ultrasound Vein Mapping:
The great saphenous veins have been harvested bilaterally. The 
small saphenous veins are patent and with diameters as above. 
Please see digitized image on PACS for formal sequential 
measurements.

___ MRI:
Soft tissue edema along the lateral fifth proximal phalanx, with 
adjacent bone marrow edema, hypointense T1 bone marrow signal 
and enhancement of the fifth proximal phalanx and metatarsal 
head.  No cortical irregularity, erosion or soft tissue sinus 
tract extending to bone is seen.  No significant fifth MTP joint 
effusion.  Marrow edema is relatively intense, but the 
differential diagnosis includes prominent reactive marrow edema 
versus osteomyelitis of the fifth metatarsal head and proximal 
fifth phalanx.  No localized fluid collection or abscess. 
Relatively large soft tissue hemangioma in the plantar soft 
tissues of the forefoot, detailed above.  This corresponds to 
phleboliths seen on the ___ radiographs.

___ L Foot XRay: 
Status post resection of distal fifth metatarsal with expected 
postoperative findings. 

 
Brief Hospital Course:
Patient is ___ M with PMH type I diabetes, CVA, PVD who 
presents as a direct admit for infected L foot ulcer. He 
underwent an angiogram and stent placement to increase blood 
flow to the LLE. An MRI was concerning for osteomyelitis, so the 
patient was taken to the OR by podiatry for wound debridement 
and bone excision. He was continued on IV vancomycin and PO 
ciprofloxacin. The treatment course will depend on the bone 
pathology results.

#Infected L foot ulcer: 
#Osteomyelitis:
The patient presented with an infected left foot in the setting 
of three months of increasing pain. Xray with possible 
osteomyelitis. Vascular angiogram performed on ___ and stent 
was placed to improve vascular flow in the left lower extremity. 
The angiogram showed poor perfusion in the L lower extremity. 
MRI with evidence of osteomyelitis. The patient was started on 
IV vanc/flagyl/cipro ___ which were then stopped in an 
attempt to have the patient off of antibiotics for 48 hours to 
get culture data when patient went to the OR for debridement. 
The podiatry team performed a debridement in the OR on ___. 
Unfortunately, no intra-op cultures were sent, and the specimen 
was only sent for pathology. Per ID, the plan was to empirically 
continue treating for osteomyelitis for a 6 week course. If bone 
pathology demonstrates clear margins, treatment will stop after 
2 weeks of IV therapy. Day 1 = ___. Patient should follow-up 
with ___ OPAT, Podiatry, and vascular surgery. 

# ___: Patient had a Cr of 1.3 (baseline 1.0). Resolved with 
IVF. Likely prerenal in the setting of being NPO for procedure. 
Lisinopril and HCTZ held given ___ and ___ in the 
hospital.

#Peripheral vascular disease: The patient was evaluated by the 
vascular team and a stent was placed as above. He was continued 
on home aspirin and Plavix. 

#T1DM complicated by diabetic neuropathy: Patient was diagnosed 
with T1DM at age ___. Home regimen is 36U of Lantus at bedtime, 
Humalog 5U, 2U, 4U with breakfast, lunch, dinner respectively. 
His blood sugars were difficult to control when he was NPO for 
procedures. Please continue to monitor blood sugars closely. 

#HTN: Continued home amlodipine, atenolol. Held home lisinopril, 
HCTZ as above given ___ and normotension. 

#CVA: Patient has short-term memory problems and difficulty 
expressing himself from a CVA. He was continued on aspirin, 
plavix, and atorvastatin. 

#GERD: Continued home ranitidine.

#Depression: Continued home citalopram.

#Glaucoma: Continued home latanoprost and timolol.

TRANSITIONAL ISSUES:
====================
#Osteomyelitis
- ID follow-up (ID will contact patient to schedule.)
- Podiatry follow-up (Scheduled.)
- Will be discharged on IV vancomycin and PO ciprofloxacin.
- Follow-up bone pathology. If clean margins, patient only needs 
2 weeks of IV antibiotics, otherwise, he will need 6 weeks of IV 
antibiotics. (Day 1 = ___.

#PVD
- Vascular follow-up (Scheduled)

#HTN
- home lisinopril and HCTZ held given normotension and ___. 
Please restart as needed. 

#T1DM
- Patient discharged on home regimen. Please monitor blood 
sugars closely. 

#CODE: Full 
#CONTACT: ___ (brother/HCP) ___ Mother 
(___) ___  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clopidogrel 75 mg PO DAILY 
2. Gabapentin 100 mg PO TID 
3. aspirin 325 mg oral DAILY 
4. amLODIPine 5 mg PO DAILY 
5. Atenolol 25 mg PO DAILY 
6. Citalopram 10 mg PO DAILY 
7. lisinopril-hydrochlorothiazide ___ mg oral BID 
8. Ranitidine 150 mg PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. Timolol Maleate 0.5% 1 DROP BOTH EYES QHS 
11. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
12. Vytorin ___ (ezetimibe-simvastatin) ___ mg oral DAILY 
13. Glargine 36 Units Bedtime
Humalog 5 Units Breakfast
Humalog 2 Units Lunch
Humalog 4 Units Dinner
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Vancomycin 1000 mg IV Q 12H 
RX *vancomycin 1 gram 1 g IV Q12 hours Disp #*14 Vial Refills:*5 

3.  Glargine 36 Units Bedtime
Humalog 5 Units Breakfast
Humalog 2 Units Lunch
Humalog 4 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
4.  amLODIPine 5 mg PO DAILY  
5.  aspirin 325 mg oral DAILY  
6.  Atenolol 25 mg PO DAILY  
7.  Citalopram 10 mg PO DAILY  
8.  Clopidogrel 75 mg PO DAILY  
9.  Gabapentin 100 mg PO TID  
10.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
11.  Ranitidine 150 mg PO DAILY  
12.  Timolol Maleate 0.5% 1 DROP BOTH EYES QHS  
13.  Vitamin D 1000 UNIT PO DAILY  
14.  Vytorin ___ (ezetimibe-simvastatin) ___ mg oral DAILY  
15. HELD- lisinopril-hydrochlorothiazide ___ mg oral BID  
This medication was held. Do not restart 
lisinopril-hydrochlorothiazide until you are told to do so by 
your primary care doctor. 
16.___
ICD10:M86
Diagnosis: Osteomyelitis L foot
Prognosis: good
___: 13 mo.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Primary Diagnosis:
- Infected left foot ulcer
- Osteomyelitis

Secondary Diagnosis:
- Type 1 DM
- Peripheral vascular disease
- CVA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized at ___. 

Why did you come to the hospital?
================================
- You came to the hospital because your podiatrist thought that 
your foot was infected. 

What did we do for you?
==================
- We gave you strong antibiotics to help treat the infection.
- You had a stent placed in one of the blood vessels of your leg 
to help with blood flow.
- You went to the operating room to have your wound cleaned out 
by the podiatry team. They also sent a piece of bone to the 
pathology lab to see if it was infected. 

What do you need to do?
==================
- It is important that you continue taking your antibiotics as 
prescribed.
- You should follow-up with your podiatrist.
- You should also follow-up with the infectious disease team. 

It was a pleasure caring for you. We wish you the best!

Sincerely,
Your ___ Medicine Team. 
 
Followup Instructions:
___